US05985900
To a solution of S-methyl-D-penicillamine methyl ester (0.160 g., 0.904 mmol) and diisopropylethylamine (0.172 mL, 0.99 mmol) in dichloromethane (3 mL) was added 4-phenoxybenzenesulfonyl chloride (0.304 g, 1.13 mmol) via solid addition funnel. After 2.5 hours at room temperature, the solution was concentrated and the residue was purified on silica, eluting with 20% ethyl acetate in hexane, to give S-methyl--N--[4-(phenoxy)benzenesulfonyl]-D-penicillamine methyl ester as a white solid in 87% yield: 1H NMR (CDCl3) δ 1.31 (s, 3H), 1.37 (s, 3H), 1.96 (s,3H), 3.48 (s, 3H), 3.79 (d, 1H, J=9 Hz), 5.34 (d, 1H, J=10 Hz), 6.99-7.79 (m, 9H); FAB HRMS: expected (M+Na)=432.0915, found (M+Na)=432.0907.

reactant | S-methyl-D-penicillamine methyl ester | 0.904 mmol, 0.160 g | COC([C@H](N)C(C)(C)SC)=O | C7H15NO2S
reactant | diisopropylethylamine | 0.99 mmol, 0.172 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-phenoxybenzenesulfonyl chloride | 1.13 mmol, 0.304 g | O(C1=CC=CC=C1)C1=CC=C(C=C1)S(=O)(=O)Cl | C12H9ClO3S
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | S-methyl--N--[4-(phenoxy)benzenesulfonyl]-D-penicillamine methyl ester | 87% yield | COC([C@H](NS(=O)(=O)C1=CC=C(C=C1)OC1=CC=CC=C1)C(C)(C)SC)=O | C19H23NO5S2
